US04032525
Preparation of 1-[2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-4-methyl-piperazine dihydrochloride
The 1-[2-chloro-dibenz[b,f]oxepin-10-yl]-4-methyl-piperazine having a melting point of 119°-120° C. [maleate: melting point 200°-202° C. (with decomposition)] used as the starting material can be prepared in an analogous manner to that described in Example 14 from 2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-one and 1-methyl-piperazine.

reactant | 1-[2-chloro-dibenz[b,f]oxepin-10-yl]-4-methyl-piperazine | ClC1=CC2=C(OC3=C(C(=C2)N2CCN(CC2)C)C=CC=C3)C=C1 | C19H19ClN2O
reactant | maleate | C(\C=C/C(=O)[O-])(=O)[O-]
reactant | 2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-one | ClC1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9ClO2
reactant | 1-methyl-piperazine | CN1CCNCC1 | C5H12N2
product | 1-[2-chloro-10,11-dihydro-dibenz[b,f]oxepin-10-yl]-4-methyl-piperazine dihydrochloride | Cl.Cl.ClC1=CC2=C(OC3=C(C(C2)N2CCN(CC2)C)C=CC=C3)C=C1 | InChI=1S/C19H21ClN2O.2ClH/c1-21-8-10-22(11-9-21)17-13-14-12-15(20)6-7-18(14)23-19-5-3-2-4-16(17)19;;/h2-7,12,17H,8-11,13H2,1H3;2*1H
